US04028422
1.96 g (5.10- 3 mole) oleylphenylsulfone in solution in 10cm3 tetrahydrofuran are treated by the equivalent of butyl lithium at -78° C. The temperature is then allowed to rise progressively to 20° C. During this rise in temperature, the lithiated sulfone crystallises in the medium in the form of white crystals. The reaction mixture is once more cooled to -30° C. and 0.76 g (5.10-3 mole n. pentyl bromide in solution in 5 cm3 tetrahydrofuran are added thereto. After having kept the mixture at -30° C. for 10 minutes, the temperature is allowed to rise to 20° C. and stirring is continued for 2 hours. The reaction mixture is then hydrolyzed by a saturated aqueous solution of ammonium chloride and extracted three times with 50 cm3 ether. The combined ethereal extracts are washed three times with a saturated aqueous solution of sodium chloride, dried over magnesium sulphate and concentrated. 2.14 g (yield: 93%) of 6-phenylsulfonyl-cis-tricos-14-ene identified by thin layer chromatography and spectrography are thus obtained.

reactant | oleylphenylsulfone | 5.10- 3 mole, 1.96 g | C(CCCCCCC\C=C/CCCCCCCC)S(=O)(=O)C1=CC=CC=C1 | C24H40O2S
reactant | butyl lithium | C(CCC)[Li]
reactant | tetrahydrofuran | 10cm3 | O1CCCC1 | C4H8O
product | 6-phenylsulfonyl-cis-tricos-14-ene | 2.14 g, yield: 93% | C1(=CC=CC=C1)S(=O)(=O)C(CCCCC)CCCCCCC\C=C/CCCCCCCC | C29H50O2S
